US07714126B2
With a procedure similar to example 50 above, 2-(2-chloro-phenyl)-4-propyl-oxazole-5-carboxylic acid {6-[(2-methoxy-ethyl)-methyl-amino]-pyridin-3-yl}-amide was prepared from 2-(2-chloro-phenyl)-4-propyl-oxazole-5-carboxylic acid 2,5-dioxo-pyrrolidin-1-yl ester and N2-(2-methoxy-ethyl)-N2-methyl-pyridine-2,5-diamine. LCMS calcd for C22H25ClN4O3 (m/e) 428, obsd 429 (M+H).

reactant | 2-(2-chloro-phenyl)-4-propyl-oxazole-5-carboxylic acid 2,5-dioxo-pyrrolidin-1-yl ester | O=C1N(C(CC1)=O)OC(=O)C1=C(N=C(O1)C1=C(C=CC=C1)Cl)CCC | C17H15ClN2O5
reactant | N2-(2-methoxy-ethyl)-N2-methyl-pyridine-2,5-diamine | COCCN(C1=NC=C(C=C1)N)C | C9H15N3O
product | 2-(2-chloro-phenyl)-4-propyl-oxazole-5-carboxylic acid {6-[(2-methoxy-ethyl)-methyl-amino]-pyridin-3-yl}-amide | COCCN(C1=CC=C(C=N1)NC(=O)C1=C(N=C(O1)C1=C(C=CC=C1)Cl)CCC)C | C22H25ClN4O3
